US05459138
EXAMPLE 1: 2,3-DIHYDRO-4H-PYRIDO[3,2-e] [1,2,4]THIADIAZINE 1,1-DIOXIDE
A mixture of 1 g of 3-aminopyridine-2-sulfonamide (Preparation 1) and 0.23 g of paraformaldehyde (1.3 eq.) in 10 cm3 of isopropanol to which 10 drops of ethyl acetate saturated with gaseous HCl have been added is brought to reflux for 1 to 2 hours. After cooling, the crystalline precipitate of the title compound is collected on a filter and washed with isopropanol. The product is recrystallized from hot water.

reactant | 3-aminopyridine-2-sulfonamide | 1 g | NC=1C(=NC=CC1)S(=O)(=O)N | C5H7N3O2S
reactant | paraformaldehyde | 0.23 g, 1.3 eq. | C=O | CH2O
reactant | HCl | Cl | ClH
solvent | isopropanol | 10 cm3 | C(C)(C)O | C3H8O
catalyst | ethyl acetate | 10 drops | C(C)(=O)OCC | C4H8O2
product | 2,3-DIHYDRO-4H-PYRIDO[3,2-e] [1,2,4]THIADIAZINE 1,1-DIOXIDE | S1(NCNC2=C1N=CC=C2)(=O)=O | C6H7N3O2S
